US05554607
1-Ethyl-3-(2-isopropyphenyl)-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 16 using 15.42 g of 2-isopropylphenyl-isothiocyanate, 16.05 g of N-ethyl glycine, 12 g of triethyl amine, and 200 mL of chloroform. Purification was achieved by flash chromatography on silica gel (5-20 % ethyl acetate in hexane) Crystallization from ethanol afforded the title compound (9.8 g) as a white solid, m.p. 125°-127° C. Anal. Calcd. for. C14H18N2O S: C, 64.09; H, 6.91; N, 10.68. Found: C, 64.19 H, 6.93; N, 10.71. Mass spectrum (EI, M.+) m/z 262.

reactant | 2-isopropylphenyl-isothiocyanate | 15.42 g | C(C)(C)C1=C(C=CC=C1)N=C=S | C10H11NS
reactant | N-ethyl glycine | 16.05 g | C(C)NCC(=O)O | C4H9NO2
reactant | triethyl amine | 12 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-3-(2-isopropyphenyl)-2-thioxo-imidazolidin-4-one | 9.8 g | C(C)N1C(N(C(C1)=O)C1=C(C=CC=C1)C(C)C)=S | C14H18N2OS
